US08536197B2
(151a) 1-(1H-Imidazol-1-ylcarbonyl)-L-proline methyl ester
L-proline methyl ester hydrochloride (0.300 g, 1.81 mmol) was dissolved in dichloromethane (5 ml). Triethylamine (0.202 g, 1.99 mmol) and 1,1′-carbonylbis-1H-imidazole (0.352 g, 2.17 mmol) were added, and the mixture was stirred at room temperature for five days. Water was added to the reaction solution, followed by extraction with dichloromethane. Then, the organic layer was washed with brine and dried over anhydrous sodium sulfate. Following concentration under reduced pressure, 0.404g of the title compound was obtained as a colorless oily substance (100%).

reactant | L-proline methyl ester hydrochloride | 1.81 mmol, 0.300 g | Cl.COC([C@H]1NCCC1)=O
reactant | Triethylamine | 1.99 mmol, 0.202 g | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonylbis-1H-imidazole | 2.17 mmol, 0.352 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(1H-Imidazol-1-ylcarbonyl)-L-proline methyl ester | 0.404g | COC([C@H]1N(CCC1)C(=O)N1C=NC=C1)=O | C10H13N3O3
